US05243054
54b) Methyl 2-[N-tert-butoxycarbonyl-N-(2'-carbamoylbiphenyl-4-yl)methylamino1-3-nitrobenzoate
A mixture of methyl 2-(N-tert-butoxycarbonylamino)-3-nitrobenzoate (1.8 g), 4'-bromomethylbiphenyl-2-carboxamide (1.8 g) and K2CO3 (0.86 g) in acetonitrile (25 ml) was heated for 6 hours under reflux. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over MgSO4. The solvent was removed in vacuo, and the residue was purified by column chromatography on silica gel to afford a yellow syrup (2.3 g, 90%).

reactant | methyl 2-(N-tert-butoxycarbonylamino)-3-nitrobenzoate | 1.8 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C13H16N2O6
reactant | 4'-bromomethylbiphenyl-2-carboxamide | 1.8 g | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)N | C14H12BrNO
reactant | K2CO3 | 0.86 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | Methyl 2-[N-tert-butoxycarbonyl-N-(2'-carbamoylbiphenyl-4-yl)methylamino1-3-nitrobenzoate | 2.3 g, 90% | C(C)(C)(C)OC(=O)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C(N)=O)C1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C27H27N3O7
